US07105531B2
To a stirred solution of ethylmagnesium bromide (3.26 mL of a 3M solution in diethyl ether, 9.8 mmol) in anhydrous tetrahydrofuran (10 mL) at 0° C. under nitrogen is added diisopropylamine (2.75 mL, 19.6 mmol). The mixture is stirred at 0° C. for 1 hour. 1-Butyl acetate (0.5 mL, 3.6 mmol) and a solution of 1.0 g (2.45 mmol) of 4-benzyloxy-7-(4-chloro-phenylsulfanyl)-3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile in anhydrous tetrahydrofuran (10 mL) are added successively, and the resulting mixture is stirred for an additional hour. The reaction is quenched with aqueous ammonium chloride and the product mixture is extracted with ethyl acetate. The ethyl acetate extract is washed with brine, dried over anhydrous sodium sulfate and passed through a plug of silica to give 3-amino-3-[4-benzyloxy-7-(4-chloro-phenylsulfanyl)-3-methoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-acrylic acid tert-butyl ester as a clear oil, that solidified upon standing, mp 112–115° C.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | diisopropylamine | 19.6 mmol, 2.75 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1-Butyl acetate | 3.6 mmol, 0.5 mL | C(C)(=O)OCCCC | C6H12O2
reactant | 4-benzyloxy-7-(4-chloro-phenylsulfanyl)-3-methoxybicyclo[4.2.0]octa-1,3,5-triene-7-carbonitrile | 2.45 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C2CC(C2=C1)(C#N)SC1=CC=C(C=C1)Cl)OC | C23H18ClNO2S
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-amino-3-[4-benzyloxy-7-(4-chloro-phenylsulfanyl)-3-methoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-acrylic acid tert-butyl ester | C(C)(C)(C)OC(C=C(C1(C2=CC(=C(C=C2C1)OC)OCC1=CC=CC=C1)SC1=CC=C(C=C1)Cl)N)=O | C29H30ClNO4S
